US05484911
3'-Azido-3'-deoxythymidine-5'-diphosphate-rac-1-S-octadecyl-O-palmitoyl-1-thioglycerol (AZTDP-DL-PTBA) (FIG. 2)
An anhydrous mixture of 1.42 g (2.0 mmol) of AZTMP morpholidate prepared by the process detailed in Hong et al. Biochem. Biophys. Res. Commun. 94, 1169 (1980) and 1.70 g (2.5 mmol) of rac-1-S-octadecyl-2-O-palmitoyl-1-thioglycerol 3-phosphate (Hong et al. J. Med. Chem. 33, 1380, 1990) in 100 ml of anhydrous pyridine was stirred at room temperature for 7 days and then evaporated to dryness. The residue was co-evaporated with toluene to remove the residual pyridine and dissolved in 200 ml of CHCl3 -95% ethanol-H2O (2:4:1) and 40 ml of H2O was added. The aqueous layer contained the unreacted morpholidate, which was recovered. The organic layer was separated and the aqueous layer was extracted with CHCl3 (2×100 ml). The combined organic phase was extracted with 0.5N HCl (30 ml) and the aqueous layer was extracted with CHCl3 (2×50 ml). The organic phase was evaporated to dryness and the residue was dissolved in 200 ml of CHCl3 -95% ethanol-H2O (2:4:1). The solution was then applied to a DE-52 (acetate) column (4.5×20 cm). The column was eluted first with 1000 ml of the same solvent and then 7000 ml of 0.02M ammonium acetate in the same solvent. Fractions of 950-1550 ml of 0.02M ammonium acetate were pooled and kept at 0°-3° C. overnight. White solid (the phosphatidic acid) was removed by filtration and the filtrate was quickly evaporated to a small volume. The white solid was filtered and washed with 50% aqueous acetone and then with acetone. The solid (NH4 salt of the conjugate) was dissolved in CHCl3-95 % ethanol-H2O (2:4:1) and the solution was passed through an Amberlite CG-50 (Na+) column (2.5×10 cm). The column was eluted with the same solvent until no UV-absorbing compound was detected. The combined eluate was cooled at 0°-3° C. overnight and the white solid (more phosphatidic acid) was removed by filtration. The filtrate was evaporated to a small volume and the product was filtered, washed with acetone, and dried in vacuo over P2O5. the conjugate as Na salt weighed 566 mg (27% yield); mp 199°-201° C. dec.; 1H NMR (CDCl3 --CD3OD, 1:1) δ0.94 (6, dt, J=7 Hz, terminal 2 CH3), 1.34-1.43 (54, m, (CH2)15, (CH2)12), 1.57-1.73 (4, m, SCH2CH2, COCH2CH2), 2.01 (3, s, thymine CH3), 2.41 (2, m, H-2'), 2.64 (2, m, CH2CH2CO), 2.77 (2, m, SCH2CH2), 2.91 (2, dd, J=5 Hz), 4.07-4.14 (3, m, H-4', 3--CH2), 4.24 (2, m, H-5'), 4.65 (1, t, J=3.3 Hz, H-3'), 5.21 (1, quintet, J=6 Hz, 2-CH), 6.21 (1, t. J=6 Hz, H-1'), 7.71 (1, s, thymine H-6).

reactant | AZTMP | 2.0 mmol, 1.42 g | CC1=CN(C(=O)NC1=O)[C@H]2C[C@@H]([C@H](O2)COP(=O)(O)O)N=[N+]=[N-] | C10H14N5O7P
reactant | rac-1-S-octadecyl-2-O-palmitoyl-1-thioglycerol 3-phosphate | 2.5 mmol, 1.70 g | P(=O)(O)(O)OCC(CSCCCCCCCCCCCCCCCCCC)OC(CCCCCCCCCCCCCCC)=O | C37H75O6PS
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3'-Azido-3'-deoxythymidine-5'-diphosphate rac-1-S-octadecyl-O-palmitoyl-1-thioglycerol | 27% yield | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)N=[N+]=[N-].C(CCCCCCCCCCCCCCCCC)SCC(OC(CCCCCCCCCCCCCCC)=O)CO | InChI=1S/C37H74O3S.C10H15N5O10P2/c1-3-5-7-9-11-13-15-17-18-19-21-23-25-27-29-31-33-41-35-36(34-38)40-37(39)32-30-28-26-24-22-20-16-14-12-10-8-6-4-2;1-5-3-15(10(17)12-9(5)16)8-2-6(13-14-11)7(24-8)4-23-27(21,22)25-26(18,19)20/h36,38H,3-35H2,1-2H3;3,6-8H,2,4H2,1H3,(H,21,22)(H,12,16,17)(H2,18,19,20)/t;6-,7+,8+/m.0/s1
